US05627165
A 250 ml round bottom flask was charged with 11.25 grams (0.045 mol.) of ethyl 4-acetoxy-benzoylacetate and 150 ml of diethyl ether. The solution was stirred and ammonia-borane (1.39 gm., 0.045 mol., Alfa) was added in 4 portions. After being stirred 90 minutes at room temperature 50 ml of ether were added and the reaction mixture was slowly poured into a 400 ml beaker containing 20 ml of 3N HCl and 100 ml of crushed ice. After 15 minutes the organic phase was separated. The aqueous phase was extracted with ether (2×100 ml). The combined organic phase was washed with brine, dried over magnesium sulfate, filtered and evaporated. The crude product was purified by flash chromatography, using a 7 cm. diameter column of 250 grams silica gel, packed and eluted with 25% ethyl acetate/petroleum ether. 6.53 grams of ethyl 3-hydroxy-3-(4-acetoxyphenyl)propionate was obtained. The product was identical to that obtained by method A as determined by NMR and elemental analysis.

reactant | ethyl 4-acetoxy-benzoylacetate | 0.045 mol, 11.25 grams | C(C)(=O)OC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C13H14O5
reactant | ammonia borane | 0.045 mol, 1.39 gm | N.B
reactant | HCl | 3N, 20 ml | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | ethyl 3-hydroxy-3-(4-acetoxyphenyl)propionate | 6.53 grams | OC(CC(=O)OCC)C1=CC=C(C=C1)OC(C)=O | C13H16O5
